US07855225B2
To a solution of 1.0 g of 7-benzyloxy-1-phenylsulfonyl-1H-indole-3-carboxylic acid in 5 mL of trifluoroacetic acid, 1.0 g of 1,2,3,4,5-pentamethylbenzene was added, and the resulting mixture was stirred at room temperature overnight. 20 mL of ether was added to the solution, insoluble matter was removed, the solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate to obtain 0.25 g of 7-hydroxy-1-phenylsulfonyl-1H-indole-3-carboxylic acid as a gray solid. FAB−:316

reactant | 7-benzyloxy-1-phenylsulfonyl-1H-indole-3-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CN(C12)S(=O)(=O)C1=CC=CC=C1)C(=O)O | C22H17NO5S
reactant | 1,2,3,4,5-pentamethylbenzene | 1.0 g | CC1=C(C(=C(C(=C1)C)C)C)C | C11H16
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-hydroxy-1-phenylsulfonyl-1H-indole-3-carboxylic acid | 0.25 g | OC=1C=CC=C2C(=CN(C12)S(=O)(=O)C1=CC=CC=C1)C(=O)O | C15H11NO5S
